US05521189
2-(4-Cyanobenzyl)-4-(4-cyanophenyl)pyrimidine
A mixture of 2-(4-bromobenzyl)-4-(4-bromophenyl)pyrimidine (8.8 g, 0.02 mole) and copper(I) cyanide (4.45 g, 0.05 mole) in 25 mL dry N-methyl-2-pyrrolidone is heated under nitrogen for 3-4 hr (TLC followed), during which time the color changes to dark brown. The mixture is poured into 250 mL ice cold water and a brown solid precipitated. The mixture is stirred for 2 hr with 200 mL of 10% NaCN solution; the solid is filtered, washed with water (1 L) and dried. The brown solid is placed in a soxlet device and treated with ethanol for 36 hr. The solvent is removed, the light brown solid chromatographed over neutral aluminumoxide, elution is with ether:CHCl3 (8:2) (20×50 mL fractions). Evaporation of the solvent yields a white solid which is dried in vacuo at 100° C. for 6-7 hr to give 2.3 g (39%), mp 155°-156° C.

reactant | 2-(4-bromobenzyl)-4-(4-bromophenyl)pyrimidine | 0.02 mole, 8.8 g | BrC1=CC=C(CC2=NC=CC(=N2)C2=CC=C(C=C2)Br)C=C1 | C17H12Br2N2
reactant | copper(I) cyanide | 0.05 mole, 4.45 g | [Cu]C#N
reactant | N-methyl-2-pyrrolidone | 25 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(4-Cyanobenzyl)-4-(4-cyanophenyl)pyrimidine | C(#N)C1=CC=C(CC2=NC=CC(=N2)C2=CC=C(C=C2)C#N)C=C1 | C19H12N4
